US06958340B2
4-(2-Phenyl-1H-imidazol-1-yl)-N-pyridin-2-ylpyrimidin-2-amine (2-12)
To a solution of 2-aminopyridine (31 mg, 0.33 mmol) in dry THF (0.5 mL) was added NaH (32 mg, 1.33 mmol) at room temperature. Once the resulting bubbling had ceased, 2-(methylsulfonyl)-4-(2-phenyl-1H-imidazol-1-yl)pyrimidine (0.100 g, 0.33 mmol) was added all at once. After 1.5 hours the mixture was concentrated in vacuo, diluted with water and the pH of the resulting solution was adjusted to 7 with 1M HCl (aq). The resulting precipitate was filtered and purified by reverse phase HPLC (5-100% CH3CN/H2O+0.1% TFA). 1H-NMR (300 MHz, CDCl3) δ 8.44 (d overlapping with s, J=5.4 Hz, 2H), 8.33 (d, J=4.1 Hz, 1H), 7.93 (d, J=8.3 Hz, 1H), 7.55 (m, 4H), 7.40 (m, 3H), 7.33 (m, 1H), 6.95 (dd, J=4.9, 7.1 Hz, 1H), 6.45 (d, J=5.3 Hz, 1H).

reactant | 2-aminopyridine | 0.33 mmol, 31 mg | NC1=NC=CC=C1 | C5H6N2
reactant | NaH | 1.33 mmol, 32 mg | [H-].[Na+]
reactant | 2-(methylsulfonyl)-4-(2-phenyl-1H-imidazol-1-yl)pyrimidine | 0.33 mmol, 0.100 g | CS(=O)(=O)C1=NC=CC(=N1)N1C(=NC=C1)C1=CC=CC=C1 | C14H12N4O2S
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-(2-Phenyl-1H-imidazol-1-yl)-N-pyridin-2-ylpyrimidin-2-amine | C1(=CC=CC=C1)C=1N(C=CN1)C1=NC(=NC=C1)NC1=NC=CC=C1 | C18H14N6
